US04539421
(a) 4-[N-(n-Propyl)amino]-1-phenyl-2,2,6,6-tetramethyl-phosphorinane
A flask, under nitrogen, was charged with a mixture of 12.4 grams (0.05 mole) of 1-phenyl-2,2,6,6-tetra methyl-4-phosphorinanone, 17.7 grams (0.30 mole) of n-propylamine, 1.89 grams (0.03 mole) of sodium cyanotrihydroborate, 20 mls of 5N methanolic hydrochloric acid and 150 mls of methanol. The mixture was stirred at ambient temperature for three days and then treated with 20 mls of conc. hydrochloric acid. The reaction mixture was concentrated in vacuo and 30 mls of water and 25 mls of diethylether were added. The layers were separated and to the aqueous layer was added 8 grams of solid sodium hydroxyde. The resultant basic mixture was extracted sequentially with five 25 ml portions of diethylether. The combined extracts were dried over anhydrous sodium sulfate, the solvent removed in vacuo and the residue distilled under reduced pressure to give 11.2 grams (77% yield) of colorless liquid, b.p. 140°-144° C. (0.1 mm Hg)

reactant | 1-phenyl-2,2,6,6-tetra methyl-4-phosphorinanone | 0.05 mole, 12.4 grams | C1(=CC=CC=C1)P1C(CC(CC1(C)C)=O)(C)C | C15H21OP
reactant | n-propylamine | 0.30 mole, 17.7 grams | C(CC)N | C3H9N
reactant | sodium cyanotrihydroborate | 0.03 mole, 1.89 grams | [B-]C#N.[Na+]
reactant | hydrochloric acid | 5N, 20 mls | Cl | ClH
reactant | hydrochloric acid | 20 mls | Cl | ClH
solvent | methanol | 150 mls | CO | CH4O
product | 4-[N-(n-Propyl)amino]-1-phenyl-2,2,6,6-tetramethyl-phosphorinane | 11.2 grams, 77% yield | C(CC)NC1CC(P(C(C1)(C)C)C1=CC=CC=C1)(C)C | C18H30NP
